US06610705B1
(4-Methoxyphenyl)-(4-(2-hydroxy-3-n-butylaminopropoxy)phenyl)-1,2,3,4-tetrahydro-naphth-1-yl-methane
A mixture of (4-methoxyphenyl)-(4-(2,3-epoxypropyloxy)phenyl)-1,2,3,4-tetrahydronaphth-1-yl-methane (400 mg, 0.01 mol), n-butyl amine (1.0 ml, 0.01 mol) and ethanol (10 ml) was refluxed for 8 hrs. Ethanol was distilled off and the residue was passed through basic alumina using benzene:ethyl acetate as the eluent. The solvent was distilled off yielding the required product. Yield 230 mg (48.93%).

reactant | (4-methoxyphenyl)-(4-(2,3-epoxypropyloxy)phenyl)-1,2,3,4-tetrahydronaphth-1-yl-methane | 0.01 mol, 400 mg | COC1=CC=C(C=C1)C(C1CCCC2=CC=CC=C12)C1=CC=C(C=C1)OCC1CO1 | C27H28O3
reactant | n-butyl amine | 0.01 mol, 1.0 ml | C(CCC)N | C4H11N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | (4-Methoxyphenyl)-(4-(2-hydroxy-3-n-butylaminopropoxy)phenyl)-1,2,3,4-tetrahydro-naphth-1-yl-methane | COC1=CC=C(C=C1)C(C1CCCC2=CC=CC=C12)C1=CC=C(C=C1)OCC(CNCCCC)O | C31H39NO3
